US04254270
In a 250 ml three-necked flask equipped with magnetic stirrer, reflux condenser and dropping funnel, 26.6 g of pentachlorophenol is placed for dissolving in 70 ml of chloroform and 50 ml of triethylamine. Over a period of 10 minutes, 22.1 g of 3-aminopropyltriethoxysilane is added, drop by drop, with refluxing and stirring. After three hours of boiling and stirring, the clear solution is concentrated by distilling out the chloroform, the ethanol that is formed, and most of the triethylamine, and the product is carefully precipitated with 130 ml of pentane, with stirring. It is washed thrice with pentane and decanted, then dried in a high vacuum at about 60° C. 41 g of a finely divided 3-aminopropyldiethoxypentachlorophenoxysilane is obtained having a melting point of 122° C.

reactant | pentachlorophenol | 26.6 g | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | 3-aminopropyltriethoxysilane | 22.1 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | 3-aminopropyldiethoxypentachlorophenoxysilane | NCCC[Si](OC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl)(OCC)OCC | C13H18Cl5NO3Si
